US05260294
rac-3,4-Dihydro-2-[(4-hydroxy-3-propylphenyl)ethynyl]-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol
This compound was obtained by reacting rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 4-iodo-2-propylphenol under the conditions described in Example 1. The product was isolated by chromatography over the 40 fold amount of silica gel using 10% (V/V) of ethyl acetate in methylene chloride. It was crystallized from ether/hexane to give off-white crystals with m.p. 154°-156°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 4-iodo-2-propylphenol | IC1=CC(=C(C=C1)O)CCC | C9H11IO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-3,4-Dihydro-2-[(4-hydroxy-3-propylphenyl)ethynyl]-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | OC1=C(C=C(C=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)CCC | C24H28O3
